US07115589B2
[(4-Amino-phenyl)-hydroxy-phosphinoylmethyl]-phosphonic Acid:
A solution of [(4-Amino-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic acid diethyl ester (2.78 g, 8.29 mmol) in 250 mL of conc. HCl was heated at reflux (apparatus equipped with a NaOH trap) for 5 h. Concentrated solution via distillation to provide a sticky yellow-white solid, which was used without purification in the next step: m/z 252 (M+H).

reactant | [(4-Amino-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic acid diethyl ester | 8.29 mmol, 2.78 g | C(C)OP(OCC)(=O)C([PH2]=O)(OCC)C1=CC=C(C=C1)N | C13H23NO5P2
solvent | HCl | 250 mL | Cl | ClH
product | [(4-Amino-phenyl)-hydroxy-phosphinoylmethyl]-phosphonic Acid | NC1=CC=C(C=C1)C([PH2]=O)(O)P(O)(O)=O | C7H11NO5P2
